US04163105
30.2 Grams of 4-dimethylamino-m-cresol and 16.0 grams of chloroacetonitrile were dissolved in 50 ml. of dimethylsulfoxide. Anhydrous K2CO3 (39.6 g) was added as a catalyst. The mixture was heated with stirring to 70°-80° C. for three hours. The reaction mixture was poured into approximately 2 liters of a ice and water mixture. The product was extracted with methylene chloride. The extract was dried with SEA SORB® and activated charcoal and the resulting mixture was filtered. The filtrate was dried under vacuum to yield 4-dimethylamino-m-tolyloxyacetonitrile.

reactant | 4-dimethylamino-m-cresol | CN(C=1C(=CC(=CC1)O)C)C | C9H13NO
reactant | chloroacetonitrile | 16.0 grams | ClCC#N | C2H2ClN
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | K2CO3 | 39.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | 4-dimethylamino-m-tolyloxyacetonitrile | CN(C1=C(C=C(C=C1)C)OCC#N)C | C11H14N2O
